data/mechanism_extracts/OrgBiomolChem/10.1039_d4ob00805g.json
{"doi": "10.1039_d4ob00805g", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical selenylation-dearomative ipso-cyclization of N-benzylacrylamides with diaryl diselenides to access selenylated 2-azaspiro[4.5]decadienones", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of diphenyl diselenide (PhSeSePh) generates a PhSe radical and a selenium cation; cathode reduces the cyclohexadienyl radical cation intermediate to the corresponding carbanion that undergoes demethylation to deliver the spirocyclic dienone", "key_intermediates": [{"name": "phenylselenyl radical (PhSe•) from anodic oxidation of (PhSe)2", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "diphenyl diselenide radical cation (Ph2Se2•+)", "smiles": null, "role": "transient"}, {"name": "C-centered radical C from PhSe• addition to acrylamide alkene", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl radical D after ipso-carbocyclization onto the p-methoxyaryl", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl cation E after SET at cathode (then demethylation)", "smiles": null, "role": "reactive"}, {"name": "spirocyclic azaspiro[4.5]decadienone product 3a", "smiles": null, "role": "reactive"}, {"name": "TEMPO-SePh adduct 6 (observed by HRMS)", "smiles": "CC1(C)CCCC(C)(C)N1O[Se]c1ccccc1", "role": "off_pathway"}], "electron_flow": "At the anode, (PhSe)2 is oxidized to a radical cation that fragments to PhSe• and PhSe+; PhSe• adds to the acrylamide alkene to give a C-radical that undergoes ipso-cyclization onto the p-methoxyphenyl ring to form a cyclohexadienyl radical, which is oxidized (at the anode) / reduced at the cathode pathway then loses methyl to furnish the dearomatized spirocyclic dienone.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Formation of spirocycle 3a was inhibited and a TEMPO-SePh adduct 6 was detected by HRMS, supporting PhSe radical intermediacy"}, {"name": "No current (electrolysis off)", "smiles": null, "purpose": "other", "observation": "No product formation in the absence of current, confirming that electrochemistry is essential"}, {"name": "Cyclic voltammetry of 1a and 2a", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peak of (PhSe)2 (2a) at 1.18 V vs 1.72 V for acrylamide 1a, indicating diselenide is oxidized preferentially at the anode"}], "evidence_types_used": ["intermediate_trap_TEMPO", "cyclic_voltammetry", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Reaction fails with 4-NO2 substituent on the N-benzyl aryl (electron-poor arene cannot be dearomatized) and with Me2Se2 (no selenyl radical generated). The cathodic step is drawn as SET to convert dienyl radical D to cation/anion E followed by demethylation; the exact polarity of E (cation after anodic oxidation vs anion after cathodic reduction) is ambiguous in the scheme, but the authors invoke cathodic SET."}
